US05571820
A solution of 1.55 g of ethyl 1-isopropyl-2(1H)-quinolone-3-carboxylate and 0.28 g of sodium hydroxide in a mixture of 10 ml of ethanol and 2 ml of water was stirred overnight at room temperature. After the solvent was distilled off, dil. hydrochloric acid was added to the residue. The precipitated solid was taken by filtration, washed with water and dried to give 1.22 g of 1-isopropyl-2(1H)-quinolone-3-carboxylic acid.

reactant | ethyl 1-isopropyl-2(1H)-quinolone-3-carboxylate | 1.55 g | C(C)(C)N1C(C(=CC2=CC=CC=C12)C(=O)OCC)=O | C15H17NO3
reactant | sodium hydroxide | 0.28 g | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 2 ml | O | H2O
product | 1-isopropyl-2(1H)-quinolone-3-carboxylic acid | 1.22 g | C(C)(C)N1C(C(=CC2=CC=CC=C12)C(=O)O)=O | C13H13NO3
